US04323515
The chemical analysis indicates a content of 14.8% of palladium and a content of chlorine less than 0.5%. 2.0 grams of palladium porphyrin and 30 grams of nitrobenzene are charged into the autoclave previously described and the total volume is completed to 100 ml with orthodichlorobenzene. A stream of nitrogen is passed in at atmospheric pressure, then it is compressed with carbon monoxide until the pressure reaches 200 bars at 20° C. The autoclave is isolated and heated to 230° C., which brings the pressure of 340 bars. The mixture is allowed to react for 7 hours while maintaining it under agitation, then allowed to cool and analyzed. The O.C.R. of the nitrobenzene is 25.4% and the selectivity to phenylisocyanate is 94.8%. No azobenzene is formed.

reactant | chlorine | ClCl | Cl2
reactant | nitrobenzene | 30 grams | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | carbon monoxide | [C]=O | CO
reactant | phenylisocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
catalyst | palladium | [Pd] | Pd
catalyst | palladium porphyrin | 2.0 grams | C12=CC=C(N1)C=C1C=CC(=N1)C=C1C=CC(N1)=CC=1C=CC(N1)=C2.[Pd]
solvent | orthodichlorobenzene | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | azobenzene | N(=NC1=CC=CC=C1)C1=CC=CC=C1 | C12H10N2
